US07011838B2
Using 0.51 g of (2-chloro-4-fluorobenzyl)malononitrile, 5 ml of N,N-dimethylformamide, 0.12 g of sodium hydride (60% in oil), and 0.34 g of 1-bromo-3,3,3-trifluoropropane, and according to the process described in the Production Example 1, there was obtained 0.21 g of 2-(2-chloro-4-fluorobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (44)).

reactant | (2-chloro-4-fluorobenzyl)malononitrile | 0.51 g | ClC1=C(CC(C#N)C#N)C=CC(=C1)F | C10H6ClFN2
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 1-bromo-3,3,3-trifluoropropane | 0.34 g | BrCCC(F)(F)F | C3H4BrF3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2-chloro-4-fluorobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.21 g, Yield: 34% | ClC1=C(CC(C#N)(C#N)CCC(F)(F)F)C=CC(=C1)F | C13H9ClF4N2
